US07125901B2
To a solution of N-[4-(2-{4-[(diformylamino)methyl]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide (56 mg) in methanol (0.5 ml) was added 4N hydrogen chloride in ethyl acetate (0.5 ml), and the mixture was stirred at ambient temperature for 1 hour. The reaction mixture was concentrated in vacuo. The residue was separated between chloroform (5 ml) and saturated aqueous sodium hydrogen bicarbonate (5 ml), and the aqueous layer was extracted with chloroform (5 ml). The organic layer was dried over sodium sulfate and concentrated in vacuo to give N-(4-{2-[4-(aminomethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide (50 mg).

reactant | N-[4-(2-{4-[(diformylamino)methyl]phenyl}ethyl)-1,3-thiazol-2-yl]acetamide | 56 mg | C(=O)N(C=O)CC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C16H17N3O3S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | methanol | 0.5 ml | CO | CH4O
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-{2-[4-(aminomethyl)phenyl]ethyl}-1,3-thiazol-2-yl)acetamide | 50 mg | NCC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C14H17N3OS
